US07319152B2
6-(3-chlorophenyl)-3,4-dihydronaphthalen-1(2H)-one
The title compound was prepared from trifluoro-methanesulfonic acid 5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl ester and 3-chlorophenyl boronic acid according to the coupling procedure as described in example 6. MS (ES) m/z 257.1.

reactant | trifluoro-methanesulfonic acid 5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl ester | O=C1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H9F3O4S
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 6-(3-chlorophenyl)-3,4-dihydronaphthalen-1(2H)-one | ClC=1C=C(C=CC1)C=1C=C2CCCC(C2=CC1)=O | C16H13ClO
